US07709468B2
Step B: 2-(2,4-Difluorophenyl)-8-methylimidazo[1,2-a]pyrazine
Into a 3-neck reaction flask equipped with a mechanical stirrer, was added 8-chloro-2-(2,4-difluorophenyl)imidazo[1,2-a]pyrazine (40.00 g, 150.6 mmol), ferric acetylacetonate (2.66 g, 7.53 mmol), tetrahydrofuran (970 mL) and N-methylpyrrolidinone (86 mL). The flask was charged with nitrogen and cooled to about −5-0° C. (acetone/DriKold cooling bath) before the drop-wise addition of 3M MeMgBr in Et2O (150 mL) over about 20 min. After the addition was complete, the reaction was stirred at this temperature for about 15 min before the cooling bath was removed. The reaction mixture was allowed to warm to ambient temperature over about 1 hour and then stirred overnight. The reaction was concentrated and the residue was stirred with water (1000 mL) and EtOAc (1000 mL) for about 15 min. The mixture was filtered through a Celite® pad to remove salts. The Celite® pad was scraped and stirred with EtOAc (3×250 mL). The basic aqueous phase was separated and extracted with EtOAc (3×250 mL). The organic layers were combined, washed with water (3×350 mL), dried over MgSO4, and filtered through a Florisil® pad to remove origin material. The solvent was removed to yield a yellow solid that was treated with boiling MeOH (125 mL), cooled to about 15° C. and petroleum ether [bp 30-60° C.] (250 mL) was added with stirring. The solid was filtered, washed with petroleum ether [bp 30-60° C.] (3×50 mL), and dried in vacuo at 70° C. to yield the title compound as a pale yellow powdery solid (23.25 g, 64%): LC/MS (Table 1, Method g) Rt=2.42 min; MS m/z: 246.1 (M+H)+.

reactant | 8-chloro-2-(2,4-difluorophenyl)imidazo[1,2-a]pyrazine | 150.6 mmol, 40.00 g | ClC=1C=2N(C=CN1)C=C(N2)C2=C(C=C(C=C2)F)F | C12H6ClF2N3
reactant | tetrahydrofuran | 970 mL | O1CCCC1 | C4H8O
reactant | acetone DriKold | CC(=O)C.C(=O)=O
reactant | MeMgBr | 3M | C[Mg+].[Br-]
solvent | Et2O | 150 mL | CCOCC | C4H10O
solvent | MeOH | 125 mL | CO | CH4O
solvent | N-methylpyrrolidinone | 86 mL | CN1C(CCC1)=O | C5H9NO
product | 2-(2,4-Difluorophenyl)-8-methylimidazo[1,2-a]pyrazine | 23.25 g, 64% | FC1=C(C=CC(=C1)F)C=1N=C2N(C=CN=C2C)C1 | C13H9F2N3
